US07161032B2
In tetrahydrofuran (300 ml) was dissolved 23.86 g (200 mmol) of 1,1-dimethyl-2-(methylthio)ethylamine, and 103.4 g (200 mmol) of a 30% solution of carbobenzoxy chloride in toluene and then a solution of 24.29 g (240 mmol) of triethylamine in tetrahydrofuran were slowly dropped thereinto under ice-cooling. After the resulting mixture was stirred at room temperature for 3 hours, the triethylamine hydrochloride precipitated was filtered under reduced pressure and washed with ethyl acetate. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 36.35 g (yield 72%) of benzyl 1,1-dimethyl-2-(methylthio)ethylcarbamate.

reactant | 1,1-dimethyl-2-(methylthio)ethylamine | 200 mmol, 23.86 g | CC(CSC)(C)N | C5H13NS
reactant | carbobenzoxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | triethylamine | 240 mmol, 24.29 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzyl 1,1-dimethyl-2-(methylthio)ethylcarbamate | 36.35 g, yield 72% | CC(CSC)(C)NC(OCC1=CC=CC=C1)=O | C13H19NO2S
